US06028076
K2CO3 (0.26 g, 1.88 mmol) and benzyl bromide (0.5 ml, ca. 2 mmol) were added to a solution of 70 mg (0.47 mmol) of 2-methyladenine in a mixture of DMF (15 ml) and water (5 ml), and stirred at room temperature for 16 h. The solvent was evaporated under vacuum, and the residue was extracted by chloroform. The resulting organic layer was dried over MgSO4, and evaporated under vacuum. 9-Benzyl-2-methyladenine was obtained by the purification of the residue using column chromatography (CH2Cl2 :MeOH=50:1-30:1).

reactant | K2CO3 | 1.88 mmol, 0.26 g | C(=O)([O-])[O-].[K+].[K+]
reactant | benzyl bromide | ca. 2 mmol, 0.5 ml | C(C1=CC=CC=C1)Br | C7H7Br
reactant | 2-methyladenine | 0.47 mmol, 70 mg | CC1=NC(=C2NC=NC2=N1)N | C6H7N5
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
solvent | water | 5 ml | O | H2O
product | 9-Benzyl-2-methyladenine | C(C1=CC=CC=C1)N1C2=NC(=NC(=C2N=C1)N)C | C13H13N5
